US07759370B2
To a solution of (R)-tert-butyl 2,2,4-trimethyl-4-(2-oxo-2-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)ethylcarbamoyl)oxazolidine-3-carboxylate (49 mg, 0.079 mmol, 1.0 equiv) in toluene (1 mL) was added Lawesson's reagent (32 mg, 0.087 mmol, 1.1 equiv). The reaction mixture was heated at 80° C. for 3 h. The crude product was purified directly by SiO2 column chromatograph (EtOAc/hexanes, 3:7) to give (R)-tert-butyl 2,2,4-trimethyl-4-(5-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)thiazol-2-yl)oxazolidine-3-carboxylate. HPLC retention time on a C8(2) column (30×50 mm, 3μ) is 3.29 min with gradient 70-98% acetonitrile-H2O (0.1% TFA) in 3.5 min as mobile phase. MS (ESI, M+H+)=619.0.

reactant | (R)-tert-butyl 2,2,4-trimethyl-4-(2-oxo-2-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)ethylcarbamoyl)oxazolidine-3-carboxylate | 0.079 mmol, 49 mg, 1.0 equiv | CC1(OC[C@@](N1C(=O)OC(C)(C)C)(C(NCC(C1=CC(=C(C=C1)OCCCCCCC1=CC=CC=C1)C(F)(F)F)=O)=O)C)C | C33H43F3N2O6
reactant | Lawesson's reagent | 0.087 mmol, 32 mg, 1.1 equiv | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-tert-butyl 2,2,4-trimethyl-4-(5-(4-(6-phenylhexyloxy)-3-(trifluoromethyl)phenyl)thiazol-2-yl)oxazolidine-3-carboxylate | CC1(OC[C@@](N1C(=O)OC(C)(C)C)(C=1SC(=CN1)C1=CC(=C(C=C1)OCCCCCCC1=CC=CC=C1)C(F)(F)F)C)C | C33H41F3N2O4S
